US06573289B1
Production of 1-(5,6-Dimethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
6-Bromo-1,2-dimethoxynaphthalene (2.10 g) was dissolved in THF (30 ml). The solution was cooled to −78° C. To the reaction mixture was added dropwise a solution of n-butyllithium in hexane (1.6M: 6 ml), and the mixture was stirred for 1 h. To the mixture was added a solution of 1-(1H-imidazol-4-yl)-2-methyl-1-propanone (0.367 g) in THF (10 ml), and the temperature of the mixture was elevated to room temperature. To the reaction mixture were added an aqueous solution of ammonium chloride and ethyl acetate, and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated. The obtained residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1) to give the titled compound (0.459 g) as a colorless solid.

reactant | 6-Bromo-1,2-dimethoxynaphthalene | 2.10 g | BrC=1C=C2C=CC(=C(C2=CC1)OC)OC | C12H11BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(1H-imidazol-4-yl)-2-methyl-1-propanone | 0.367 g | N1C=NC(=C1)C(C(C)C)=O | C7H10N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6M, 6 ml | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5,6-Dimethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.459 g | COC1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C19H22N2O3
